US07834039B2
Into a round bottom flask was added triphenylphosphine (62 g, 0.263 mol), 3-chloro-4-hydroxy-benzoic acid methyl ester (10 g, 0.0535 mol) and anhydrous THF (500 mL). The mixture was briefly stirred under nitrogen, then DBAD (19.75 g, 0.0858 mol) was added. The mixture was stirred for a few minutes before adding anhydrous isopropanol (5.125 mL, 0.067 mol). After the reaction mixture was stirred at room temperature under an atmosphere of nitrogen for about 3 hours, DBAD (19.75 g, 0.0858 mol) and anhydrous isopropanol (5.125 mL, 0.067 mol) were added and the mixture was left to stir at room temperature overnight. The solvent was removed under reduced pressure. The residue was dissolved in minimum amount of ethyl acetate. Heptane was added and the precipitate was removed by filtration. The filtrate was brought up in methanol. Water was added until cloudy. Precipitate was filtered off. The methanol/water precipitation procedure was repeated two more times. The filtrate was taken up in THF (200 mL) and 5 M NaOH (200 mL). The mixture was stirred at room temperature overnight. The organic solvent was removed under reduced pressure. The aqueous layer was extracted three times with ethyl acetate. The aqueous layer was further acidified to pH 1-2 with 2 M HCl. The cloudy suspension was then extracted with ethyl acetate three times. The organic layers were combined, dried over magnesium sulfate, and concentrated to dryness to give 3-chloro-4-isopropoxy-benzoic acid (8.4 g, 71.4%) as a white solid.

reactant | triphenylphosphine | 0.263 mol, 62 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 3-chloro-4-hydroxy-benzoic acid methyl ester | 0.0535 mol, 10 g | COC(C1=CC(=C(C=C1)O)Cl)=O | C8H7ClO3
reactant | DBAD | 0.0858 mol, 19.75 g | C1=CC=C(C=C1)COC(=O)/N=N/C(=O)OCC2=CC=CC=C2 | C16H14N2O4
reactant | isopropanol | 0.067 mol, 5.125 mL | C(C)(C)O | C3H8O
reactant | DBAD | 0.0858 mol, 19.75 g | C1=CC=C(C=C1)COC(=O)/N=N/C(=O)OCC2=CC=CC=C2 | C16H14N2O4
reactant | isopropanol | 0.067 mol, 5.125 mL | C(C)(C)O | C3H8O
solvent | THF | 500 mL | C1CCOC1 | C4H8O
product | 3-chloro-4-isopropoxy-benzoic acid | 8.4 g, 71.4% | ClC=1C=C(C(=O)O)C=CC1OC(C)C | C10H11ClO3
